US04904653
2-Acetyl-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride
Boron trifluoride etherate (0.69 ml) was added dropwise to a stirred solution of 6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine (0.46 g) in acetic anhydride (5 ml) at room temperature. After 16 hours, water (30 ml) and dichloromethane (30 ml) were added and the stirred mixture basified to pH~10 with 2M sodium hydroxide. This was extracted with dichloromethane (2×30 ml) and the extracts were dried, filtered and evaporated to a brown oil. Chromatography on silica eluting with 2% methanol in dichloromethane gave a yellow oil. This was dissolved in ethanol and ethanolic hydrogen chloride, evaporated and the title product recrystallised from ethanoldiethylethyl (m.p. 170°-176° C.).

reactant | Boron trifluoride etherate | 0.69 ml | B(F)(F)F.CCOCC
reactant | 6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine | 0.46 g | CN1CC(C2=C(CC1)C=CS2)C2=CC=CC=C2 | C15H17NS
reactant | water | 30 ml | O | H2O
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | C(C)O | C2H6O
product | 2-Acetyl-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride | Cl.C(C)(=O)C1=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)S1 | InChI=1S/C17H19NOS.ClH/c1-12(19)16-10-14-8-9-18(2)11-15(17(14)20-16)13-6-4-3-5-7-13;/h3-7,10,15H,8-9,11H2,1-2H3;1H
